US04873244
3-(5-cyclopropYl-1,2,4-oxadiazol-3-yl)-5-ethyl-4,5-dihydro4-oxo-imidazo(1,5-a)pyrido(2,3-e)pyrazine was prepared from 4-ethyl-1,2,3,4-tetrahydro-2,3-dioxo-pyrido(2,3-e)pyrazine and 3-isocyanomethyl-5-cyclopropyl-1,2,4-oxadiazole. M.p. 254.3°-255.4° C.

reactant | 4-ethyl-1,2,3,4-tetrahydro-2,3-dioxo-pyrido(2,3-e)pyrazine | C(C)N1C(C(NC2=C1N=CC=C2)=O)=O | C9H9N3O2
reactant | 3-isocyanomethyl-5-cyclopropyl-1,2,4-oxadiazole | [N+](#[C-])CC1=NOC(=N1)C1CC1 | C7H7N3O
product | 3-(5-cyclopropYl-1,2,4-oxadiazol-3-yl)-5-ethyl-4,5-dihydro4-oxo-imidazo(1,5-a)pyrido(2,3-e)pyrazine | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(N(C1=C2C=CC=N1)CC)=O | C16H14N6O2
